US07977331B1
To a solution of ethyl 1-(2-benzyloxyethyl)-2-(2,4-bismethoxymethoxyphenyl)-3-cyclohexyl-1H-pyrrolo[2,3-b]pyridine-6-carboxylate (727 mg, 1.20 mmol) in tetrahydrofuran (10 ml) and methanol (10 ml) was added 7.5% palladium carbon (225 mg), and the mixture was stirred at atmospheric pressure and in a hydrogen atmosphere at room temperature for 12 hr. The reaction mixture was filtered and the filtrate was concentrated under reduced pressure to give ethyl 2-(2,4-bismethoxymethoxyphenyl)-3-cyclohexyl-1-(2-hydroxyethyl)-1H-pyrrolo[2,3-b]pyridine-6-carboxylate as a crude product. The obtained compound was used in Step 7 without further purification.

reactant | ethyl 1-(2-benzyloxyethyl)-2-(2,4-bismethoxymethoxyphenyl)-3-cyclohexyl-1H-pyrrolo[2,3-b]pyridine-6-carboxylate | 1.20 mmol, 727 mg | C(C1=CC=CC=C1)OCCN1C(=C(C=2C1=NC(=CC2)C(=O)OCC)C2CCCCC2)C2=C(C=C(C=C2)OCOC)OCOC | C35H42N2O7
reactant | hydrogen | [H][H] | H2
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
solvent | methanol | 10 ml | CO | CH4O
catalyst | palladium carbon | 225 mg | [C].[Pd]
product | ethyl 2-(2,4-bismethoxymethoxyphenyl)-3-cyclohexyl-1-(2-hydroxyethyl)-1H-pyrrolo[2,3-b]pyridine-6-carboxylate | COCOC1=C(C=CC(=C1)OCOC)C1=C(C=2C(=NC(=CC2)C(=O)OCC)N1CCO)C1CCCCC1 | C28H36N2O7
